US07846929B2
2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-amine (40 mg) was reacted with 21 μL of acetyl chloride via General Procedure G to give N-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)acetamide.

reactant | 2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-amine | 40 mg | ClC=1N=C(C2=C(N1)C=C(S2)N)N2CCOCC2 | C10H11ClN4OS
reactant | acetyl chloride | 21 μL | C(C)(=O)Cl | C2H3ClO
product | N-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)acetamide | ClC=1N=C(C2=C(N1)C=C(S2)NC(C)=O)N2CCOCC2 | C12H13ClN4O2S
